US04371736
5-Chloro-2-[2-(5-chloropyridin-2-yloxy)phenoxy]-pyrimidine
With stirring, 1.80 grams (0.012 mole) of 2,5-dichloropyrimidine was added to a mixture of 2.0 grams (0.009 mole) 2-(5-chloropyridin-2-yloxy)phenol, 1.5 grams potassium carbonate, and 40 ml of methyl ethyl ketone. After the addition, the mixture was heated at reflux overnight and then poured into excess H2O. After extracting with 200 ml of ethyl ether, the extract was washed with saturated NaHCO3, H2O, brine, dried (MgSO4), filtered, and evaporated to yield a yellow solid which was recrystallized from 1-chlorobutane to give 2.3 grams of product, m.p. 108°-111°; ir (Nujol): 6.35, 6.50 (C=N), 13.20 microns; NMR (CDCl3): δ6.75 (d, 1H, pyridine ring proton), 7.35 (s, 4H, ArH), 7.65 (AB quartet, 1H, pyridine ring proton), 8.10 (d, 1H, pyridine ring proton), 8.55 (s, 2H, pyrimidine ring protons).

reactant | 2,5-dichloropyrimidine | 0.012 mole, 1.80 grams | ClC1=NC=C(C=N1)Cl | C4H2Cl2N2
reactant | 2-(5-chloropyridin-2-yloxy)phenol | 0.009 mole, 2.0 grams | ClC=1C=CC(=NC1)OC1=C(C=CC=C1)O | C11H8ClNO2
reactant | potassium carbonate | 1.5 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 40 ml | C(C)C(=O)C | C4H8O
solvent | H2O | O | H2O
product | 5-Chloro-2-[2-(5-chloropyridin-2-yloxy)phenoxy]-pyrimidine | 2.3 grams | ClC=1C=NC(=NC1)OC1=C(C=CC=C1)OC1=NC=C(C=C1)Cl | C15H9Cl2N3O2
